Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea, abdominal pain 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ y/o woman with a PMH of alcoholic
cirrhosis (c/b SBP, ascites, HE), non-variceal UGIB, s/p RNYGB,
current G-tube for enteral feedings, recent admissions for
abdominal wall abscess with EC fistula and recurrent ileus/SBO
c/b ATN, encephalopathy, and recurrent clogging of G-tube, who
now presents with diffuse abdominal pain and nausea. She
described the pain as ___, constant, non-radiating, with no
mitigating or aggravating factors. She has been having bowel
movements. She has not been vomiting. She denied headache,
fevers, chills, hematemesis, coffee-ground emesis, hematochezia,
melena, diarrhea, or constipation. She was referred to the ___
ED.

Upon arrival to the ED, her initial vital signs were: T 97.5F BP
102/48 mmHg P 87 RR 16 O2 100% RA. Examination was notable for
hepatic encephalopathy, no scleral icterus, no sublingual
jaundice, normal S1/S2, RRR, clear lungs, soft abdomen, TTP
diffusely, distended, no masses, no lower extremity edema.
Bedside ultrasound did not demonstrate an accessible pocket for
paracentesis. Labs were notable for Na 133, K 4.3, Cl 95, HCO3
21, BUN/Cr 35/1.0, WBC 4.5, H/H 7.3/21.9 (MCV 107), PLT 61,000,
INR 1.9, ALT 14, AST 54, alk phos 151, Tbili 2.4, albumin 2.8. 
UA
with moderate leukocyte esterase, 8 WBC, few bacteria, lactate
1.8. CT of the abdomen and pelvis was performed with oral
contrast, which demonstrated distended distal small bowel with
extensive fecalized material suggesting slow transit. No 
discrete
transition point identified nor decompressed distal small bowel
loops to support obstruction. Colon moderately distended with
stool. No evidence of abscess. Pigtail catheter seen along left
anterior abdominal wall without associated collection. Nodular
liver with small volume ascites. She received 1L IV NS, morphine
4 mg x2 and 2 mg x2, as well as ondansetron 4 mg IV. She was
admitted to the hepatology service.

On arrival to the floor, she reports that her pain was of the
same quality as usual, but was persistent. She stopped her tube
feeds, but that did not help the pain. She otherwise endorsed 
the
narrative as above. She has not been taking tramadol at home and
has been taking Dilaudid once per day. She denied fevers, 
chills,
chest pain, shortness of breath. She reports that she has been
having three bowel movements per day

 
Past Medical History:
- ETOH cirrhosis complicated by ascites, HE, SBP
- Obesity  
     - s/p gastric bypass c/b stricture of the gastrojejunal  
     anastomosis and internal hernia causing SBO s/p multiple  
     endoscopic dilations c/b perforation (as detailed below)  
- SBO as above  
- Exploratory laparotomy, takedown old gastrojejunostomy,  
gastrogastrostomy, feeding jejunostomy ___ ___ for  
perforated gastrojejunal anastomosis site with reopening of  
recent laparotomy and closure of gastrostomy ___ ___  
- Epileptiform discharges concerning for possible seizure in  
setting of altered mental status, started on keppra ___  
- numerous hospitalizations for abdominal pain, requiring  
paracenteses  
- depression/anxiety  
- GERD  
- hx of Cdiff  
- IBS  
- Chronic fatigue syndrome  
- Hypertriglyceridemia  
- Hyponatremia  
- Right breast lesions s/p U/S guided core biopsy on ___ -  
pathology showing fibroadipose tissue with blood, fibrin, and  
predominantly acute inflammatory cell infiltrate, karyorrhectic 
debris, and scattered calcifications 
 
Social History:
___
Family History:
Per prior discharge summary
- father w/ diabetes  
- maternal grandfather has unknown cancer  
- She has no family history of liver disease, hemochromatosis,  
 autoimmune diseases, or non-smoker emphysema 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: T 97.9F BP 100/63 mmHg P 88 RR 20 O2 92% RA
General: Comfortable, NAD.
HEENT: Anicteric sclerae; EOMs intact. 
Neck: Supple.
CV: RRR, III/VI holosystolic murmur best heard over LUSB with
prominent S2 component; no thrills or heaves. No rubs or 
gallops.

Pulm: Scant crackles at base; no wheezes. No accessory muscle
usage. 
Abd: Obese, soft, moderate diffuse tenderness predominantly in
RLQ, RUQ with firmness, no rebound or guarding. Well-healed
midline incision. G-tube in place, c/d/I. JP drain with minimal
serosanguinous output; no surrounding erythema or tenderness. 
Extremities: Warm and well-perfused. L>R ___ edema, well-healed
ankle scar, chronic asymmetry per patient report.
Neuro: A&Ox3; no asterixis. 

DISCHARGE PHYSICAL EXAM: 
24 HR Data (last updated ___ @ 513)
    Temp: 98.3 (Tm 98.3), BP: 93/56 (81-98/36-60), HR: 82
(75-90), RR: 18 (___), O2 sat: 95% (95-97), O2 delivery: Ra  

GENERAL: NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. Conjunctiva pink. 
NECK: Supple with no LAD or JVD. 
CARDIAC: RRR, normal S1, S2. III/VI systolic murmur best heard
over the LUSB. 
LUNGS: Resp unlabored, no accessory muscle use. Lungs CTA
bilaterally. No crackles, wheezes or rhonchi.  
ABDOMEN: Obese, very mild diffuse tenderness predominantly in
lower abdomen, soft, RUQ with firmness, no rebound or guarding. 
JP drain with serosanguinous output; no surrounding erythema or
tenderness.  G-tube site in place, no drainage or surrounding
erythema.
EXTREMITIES: Trace edema.  Distal pulses palpable and symmetric. 

SKIN: Warm, dry, no rashes or obvious lesions.    

 
Pertinent Results:
ADMISSION LABS:
___ 04:50PM BLOOD Neuts-64.2 ___ Monos-13.8* 
Eos-0.9* Baso-0.0 Im ___ AbsNeut-2.89 AbsLymp-0.93* 
AbsMono-0.62 AbsEos-0.04 AbsBaso-0.00*
___ 04:50PM BLOOD WBC-4.5 RBC-2.04* Hgb-7.3* Hct-21.9* 
MCV-107* MCH-35.8* MCHC-33.3 RDW-18.5* RDWSD-73.0* Plt Ct-61*
___ 04:50PM BLOOD ___ PTT-38.0* ___
___ 04:50PM BLOOD Glucose-91 UreaN-35* Creat-1.0 Na-133* 
K-4.3 Cl-95* HCO3-21* AnGap-17
___ 04:50PM BLOOD ALT-14 AST-54* AlkPhos-151* TotBili-2.4*
___ 04:50PM BLOOD Albumin-2.8*

IMAGING: 
CT ABD & PELVIS WITH CONTRAST (___):
IMPRESSION: 
1. Enteric contrast reaches the mid-distal small bowel.  The 
more
distal small bowel is distended, perhaps slightly worse compared
to prior and now contains more extensive fecalized material
suggesting slow transit.  No discrete transition point 
identified
nor decompressed distal small bowel loops to further support an
obstruction.  Colon is also moderately distended with stool. 
Could consider repeat abdominal radiographs to confirm enteric
contrast passage through the bowel as clinically warranted. 
2. No evidence of abscess.  Pigtail catheter seen along the left
anterior abdominal wall without associated collection in this
region. 
3. Nodular liver with small volume ascites. 
4. Persistent moderate right hydronephrosis with mild dilation 
of
proximal right ureter, unchanged. 
5. Cholelithiasis. 
6. Persistent small left pleural effusion with some left lower
lobe 
atelectasis. 

DISCHARGE LABS:
___ 07:22AM BLOOD WBC-4.3 RBC-2.05* Hgb-7.3* Hct-22.5* 
MCV-110* MCH-35.6* MCHC-32.4 RDW-18.6* RDWSD-74.9* Plt Ct-69*
___ 07:22AM BLOOD Plt Ct-69*
___ 07:22AM BLOOD Glucose-106* UreaN-36* Creat-1.4* Na-135 
K-4.2 Cl-96 HCO3-21* AnGap-18
___ 07:22AM BLOOD ALT-12 AST-44* AlkPhos-150* TotBili-2.3*
___ 07:22AM BLOOD Calcium-8.4 Phos-5.8* Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman with a PMH of alcoholic 
cirrhosis (c/b SBP, ascites, HE), non-variceal UGIB, s/p RNYGB, 
current G-tube for enteral feedings, recent admissions for
abdominal wall abscess with EC fistula and recurrent ileus/SBO 
c/b ATN, encephalopathy, and recurrent clogging of G-tube, who 
now presents with diffuse abdominal pain and nausea.

#Acute on chronic abdominal pain
#Opioid induced constipation 
#Concern for ileus
Recently admitted with abdominal pain, nausea, and emesis 
thought secondary to recurrent ileus or intermittent small bowel 
obstruction and now presents with similar symptoms; main 
presenting symptom right now is abdominal pain. CT abdomen and 
pelvis negative for acute obstruction but did demonstrate 
extensive fecalization and findings consistent with slow 
transit. Her symptoms are likely worsened by chronic opioid use, 
and on her prior admission, she was placed on simethicone and 
advised to limit her opioid use. Has not taken tramadol in 1 
week due to her pharmacy not having it. Unlikely SBP, on ppx. 
Unlikely to represent complication of prior abdominal wall 
abscess given the reassuring CT findings. Med rx refill history 
shows that she was started on methylnaltrexone and Linzess, 
however patient is unsure if she has been getting these. These 
meds were not on her pre-admission or discharge medication lists 
on her last admission. After speaking with patient's boyfriend 
who manages her medications, it was determined that she does 
have a Linzess as well as methylnaltrexone at home, however was 
not being given these medications because he was following the 
last discharge paperwork medication list. Spoke with transplant 
surgery regarding her JP drain, they will not see her on this 
admission as her drain is functioning well and there is no 
purulent drainage or complications currently.
The following was done on this admission:
-Continued home tramadol 50 mg PO BID and hydropmorphone 2 mg 
daily--minimize opioid use where possible
-Continued home lactulose/rifaximin to ensure regular bowel 
movements
-We are reinitiating Linzess and methylnaltrexone on discharge.
-Recommended to ___ that she should be having ___ bowel 
movements per day with lactulose, and uptitration of dosage if 
she is not stooling this frequently. 
-Continued ondansetron ___ mg IV q8h PRN: nausea, vomiting
-Continued metoclopramide 5 mg PO q6h 
-Continued home Simethicone 40-80 mg PO QID:PRN bloating 

___
Likely in the setting of tube feeds being held overnight ___. 
Tube feeds were restarted on ___ evening. On ___ prior to 
discharge we gave her 25 g of 5% albumin. Labs were not 
rechecked as this was felt to be well explained by her tube 
feeds being held and will expect it to quickly resolve.

#Alcoholic cirrhosis
Previously complicated by hepatic encephalopathy, SBP, and 
ascites. Followed by Dr. ___ cirrhosis, MELD-Na 
20 on admission. Checked daily MELD labs.
-HE: lactulose and rifaximin through PEG
-SBP: continued home ciprofloxacin
-Ascites: continued torsemide
-Varices: EGD ___ with diffuse friability of stomach seen 
with oozing, no intervenable lesions, no varices. 
-Coagulopathy: secondary to cirrhosis, received a trial of 
vitamin K during recent hospitalizations with only limited 
improvement in INR
-Transplant w/u: per previous documentation, not a candidate due 
to comorbidities
-Continued home midodrine 10 mg PO TID

#Poor appetite
#Tube feeds
#S/P RNYGB abdominal wall abscess and enterocutaneous fistula
Chronic tube feeding dependence via G-tube, replaced on her last 
hospitalization. Was having nausea at home which has now 
resolved. Home TF regimen: Osmolite 1.5 @ 80 mL/hr x 12
hours flush 50 mL q6h. reports that she still eats along with 
her tube feeds, proximately 2 meals per day approximately 2 
small meals a day such as cereal or a sandwich. Initially on 
admission she was cautiously placed on a liquid diet, however 
her diet was advanced to a regular diet on the morning of ___ 
as she was feeling better and had an appetite. Tube feeds were 
restarted on ___ night, which the patient tolerated well. 
Nutrition service assisted with tube feed recommendations.

_______________
CHRONIC ISSUES
#Epileptiform seizures
Continued home Keppra 1000 mg PO BID

#GERD
Continued home omeprazole 40 mg daily

#Anemia
Stable during admission, will continue to monitor.

_____________________
Transitional issues:

Medication changes: restarted Linzess (standing) and 
Methylnaltrexone (prn).

[ ] For hepatology: Please review patient's home medications and 
ensure that she is doing well on Linzess and methylnaltrexone 
which we restarted on this admission.
[ ] At next outpatient appointment please recheck Chem-7 and 
ensure kidney function has returned to baseline.

#CODE: Full (presumed) 
#CONTACT: ___, parents, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO BID:PRN Pain - Mild 
2. Bisacodyl ___ mg PO DAILY:PRN Constipation 
3. Ciprofloxacin HCl 500 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. Lactulose 30 mL PO Q6H 
6. LevETIRAcetam Oral Solution 1000 mg PO BID 
7. Midodrine 10 mg PO TID 
8. Rifaximin 550 mg PO BID 
9. Thiamine 100 mg PO DAILY 
10. Vitamin D ___ UNIT PO 1X/WEEK (___) 
11. HYDROmorphone (Dilaudid) 2 mg PO DAILY PRN Pain - Moderate 
12. Multivitamins 1 TAB PO DAILY 
13. Neutra-Phos 2 PKT PO TID 
14. Omeprazole 40 mg PO DAILY 
15. Polyethylene Glycol 17 g PO DAILY 
16. TraMADol 50 mg PO BID 
17. Metoclopramide 5 mg PO Q6H 
18. Escitalopram Oxalate 20 mg PO DAILY 
19. Simethicone 40-80 mg PO QID:PRN bloating 
20. Torsemide 20 mg PO DAILY 

 
Discharge Medications:
1.  Linzess (linaCLOtide) 145 mcg oral DAILY  
2.  Methylnaltrexone 12 mg Subcut ONCE Duration: 1 Dose  
3.  Senna 17.2 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablets by mouth daily Disp #*60 
Tablet Refills:*0 
4.  Acetaminophen 650 mg PO BID:PRN Pain - Mild  
5.  Ciprofloxacin HCl 500 mg PO DAILY  
6.  Escitalopram Oxalate 20 mg PO DAILY  
7.  FoLIC Acid 1 mg PO DAILY  
8.  HYDROmorphone (Dilaudid) 2 mg PO DAILY PRN Pain - Moderate 
RX *hydromorphone 2 mg 1 tablet(s) by mouth daily Disp #*15 
Tablet Refills:*0 
9.  Lactulose 30 mL PO Q6H  
10.  LevETIRAcetam Oral Solution 1000 mg PO BID  
11.  Metoclopramide 5 mg PO Q6H  
12.  Midodrine 10 mg PO TID  
13.  Multivitamins 1 TAB PO DAILY  
14.  Neutra-Phos 2 PKT PO TID  
15.  Omeprazole 40 mg PO DAILY  
16.  Polyethylene Glycol 17 g PO DAILY  
17.  Rifaximin 550 mg PO BID  
18.  Simethicone 40-80 mg PO QID:PRN bloating  
19.  Thiamine 100 mg PO DAILY  
20.  Torsemide 20 mg PO DAILY  
21.  TraMADol 50 mg PO BID  
22.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Abdominal pain
Constipation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent. - sometimes holds on 
to walls/furniture for support 

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. 

Why did you come to the hospital?
-You came to the hospital because you were having severe 
abdominal pain.

What was done for you while you were here?
-You had a CT scan of your abdomen which did not show an 
obstruction.
-We started you on a laxative called senna which she will take 
twice daily to keep your bowels moving.
-We continued your lactulose and gave you an extra dose.

What should you do when you go home?
-You should continue taking all of her medications as directed 
on this paperwork.
-If you do not have a bowel movement one day, you should call 
your primary liver doctor.  Your abdominal pain will worsen if 
you become constipated and stool builds up in your abdomen.

We wish you the best.

Sincerely,
Your ___ Medicine Team 
 
Followup Instructions:
___